US04020123
Diisopropenyl Azelate
Azelaic acid (100 grams, 0.53 mole), methylene chloride (500 ml.) and mercuric acetate (18.2 grams, 0.057 mole) are treated with 1 ml. of boron trifluoride etherate, and propyne gas is bubbled through the mixture for 3 hours. Solid sodium bicarbonate (5 grams) is added, and the mixture is filtered free of solids and metallic mercury.

reactant | Azelaic acid | 0.53 mole, 100 grams | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Diisopropenyl Azelate | C(CCCCCCCC(=O)OC(=C)C)(=O)OC(=C)C | C15H24O4
